US06617326B2
2-Bromo-3-fluorobenzonitrile (2.50 g, 12.5 mmol) was coupled to 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane as described in Example 1 to give 6,2′-difluoro-5′-nitrobiphenyl-2-carbonitrile as a black solid: 1H NMR (360 MHz, CDCl3) δ 7.40-7.44 (1H, m), 7.47-7.52 (1H, m), 7.59-7.67 (2H, m), 8.37-8.44 (2H, m).

reactant | 2-Bromo-3-fluorobenzonitrile | 12.5 mmol, 2.50 g | BrC1=C(C#N)C=CC=C1F | C7H3BrFN
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 6,2′-difluoro-5′-nitrobiphenyl-2-carbonitrile | FC=1C=CC=C(C1C1=C(C=CC(=C1)[N+](=O)[O-])F)C#N | C13H6F2N2O2
